### PR TITLE
[Merged by Bors] - feat: the Chebyshev polynomials C and S

### PR DESCRIPTION
**Pull request by trivial1711**
We define the rescaled Chebyshev polynomials $C_n$ and $S_n$ (also known as the Vieta–Lucas and Vieta–Fibonacci polynomials, respectively). They are related to the Chebyshev polynomials $T_n$ and $U_n$ by the formulas $C_n(2x) = 2T_n(x)$ and $S_n(2x) = U_n(x)$. Most theorems about $T_n$ and $U_n$ have analogues involving $C_n$ and $S_n$.

We prove that $C_n$ and $S_n$ are special cases of the Dickson polynomials (though unlike general Dickson polynomials, they are defined for every integer $n$, not just natural numbers).

These polynomials are necessary to state a formula for $(r_1 r_2)^m v$, where $v \in V$ is an element of a module, $r_1, r_2 \in GL(V)$ are reflections, and $m$ is an integer. The formula will be used to define and construct reflection representations of a Coxeter group over an arbitrary commutative ring, not necessarily having an invertible 2. See #13291.

---

- [x] depends on: #13133

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 1]
```diff
@@ -52,11 +57,11 @@ and do not have `map (Int.castRingHom R)` interfering all the time.
 -/
 
 namespace Polynomial.Chebyshev
-set_option linter.uppercaseLean3 false -- `T` `U` `X`
+set_option linter.uppercaseLean3 false -- `T` `U` `C` `S` `X`
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:60]: None of these occur in code translated from lean 3
```suggestion
set_option linter.uppercaseLean3 false -- `T` `U` `X`
```

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 2]
```diff
@@ -229,10 +234,185 @@ theorem one_sub_X_sq_mul_U_eq_pol_in_T (n : ℤ) :
...
+theorem C_eq (n : ℤ) : C R n = X * C R (n - 1) - C R (n - 2) := by
+  linear_combination (norm := ring_nf) C_add_two R (n - 2)
+
+@[simp]
+theorem C_zero : C R 0 = 2 := rfl
+
+@[simp]
+theorem C_one : C R 1 = X := rfl
+
+theorem C_neg_one : C R (-1) = X := (by ring : X * 2 - X = X)
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:269]: Not a big fan of that proof - does something like this work?
```suggestion
theorem C_neg_one : C R (-1) = X := by
  unfold C
  ring
```

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 3]
```diff
@@ -229,10 +234,185 @@ theorem one_sub_X_sq_mul_U_eq_pol_in_T (n : ℤ) :
...
+  linear_combination (norm := ring_nf) S_add_two R (n - 2)
+
+@[simp]
+theorem S_zero : S R 0 = 1 := rfl
+
+@[simp]
+theorem S_one : S R 1 = X := rfl
+
+@[simp]
+theorem S_neg_one : S R (-1) = 0 := by simpa using S_sub_one R 0
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:350]: `C_neg_one` is not marked as simp; is the difference intentional?

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 4]
```diff
@@ -257,6 +437,26 @@ theorem map_U (f : R →+* S) (n : ℤ) : map f (U R n) = U S n := by
...
+
+@[simp]
+theorem map_S (f : R →+* R') (n : ℤ) : map f (S R n) = S R' n := by
+  induction n using Polynomial.Chebyshev.induct with
+  | zero => simp
+  | one => simp
+  | add_two n ih1 ih2 =>
+    simp_rw [S_add_two, Polynomial.map_sub, Polynomial.map_mul, map_X, ih1, ih2];
+  | neg_add_one n ih1 ih2 =>
+    simp_rw [S_sub_one, Polynomial.map_sub, Polynomial.map_mul, map_X, ih1, ih2];
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:458]: Remove the trailing semicolons, please

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 2 above)
Comment (trivial1711) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:277]: It doesn't. Why don't you like the proof?

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 3 above)
Comment (trivial1711) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:356]: Yes, it's because `C R (-1)` is not in simp normal form (by `Polynomial.Chebyshev.C_neg`) and `S R (-1)` is

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 2 above)
Comment (j-loreaux) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:275]: How about `show X * 2 - X = x by ring`?

**Comment by grunweg** [comment]
It looks like you have a merge conflict (which is why this PR does not appear in the review queue any more).
Can you merge master, please? Thanks!

**Comment by trivial1711** [comment]
I have done the merge. Sorry for taking so long.

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 5]
```diff
@@ -299,6 +499,23 @@ theorem mul_T (m k : ℤ) : 2 * T R m * T R k = T R (m + k) + T R (m - k) := by
     have h₃ := T_add_two R (-k - 1)
     linear_combination (norm := ring_nf) 2 * T R m * h₃ - h₂ - h₁ - ih2 + 2 * (X : R[X]) * ih1
 
+/-- The product of two Chebyshev `C` polynomials is the sum of two other Chebyshev `C` polynomials.
+-/
+theorem mul_C (m k : ℤ) : C R m * C R k = C R (m + k) + C R (m - k) := by
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:504]:
```suggestion
theorem C_mul_C (m k : ℤ) : C R m * C R k = C R (m + k) + C R (m - k) := by
```

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean [hunk 6]
```diff
@@ -243,6 +423,26 @@ theorem map_U (f : R →+* S) (n : ℤ) : map f (U R n) = U S n := by
...
 
+@[simp]
+theorem map_C (f : R →+* R') (n : ℤ) : map f (C R n) = C R' n := by
+  induction n using Polynomial.Chebyshev.induct with
+  | zero => simp
+  | one => simp
+  | add_two n ih1 ih2 =>
+    simp_rw [C_add_two, Polynomial.map_sub, Polynomial.map_mul, map_X, ih1, ih2];
+  | neg_add_one n ih1 ih2 =>
+    simp_rw [C_sub_one, Polynomial.map_sub, Polynomial.map_mul, map_X, ih1, ih2];
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Polynomial/Chebyshev.lean:434]: Remove the semicolon here and two lines up, please

File: Mathlib/RingTheory/Polynomial/Chebyshev.lean (hunk 5 above)
Comment (Ruben-VandeVelde) [reply Mathlib/RingTheory/Polynomial/Chebyshev.lean:504]: And don't forget to update the documentation at the top of the file

**Review by Ruben-VandeVelde — APPROVED** [review]
Just a minor comment, thanks!

**Comment by trivial1711** [comment]
Thanks. I've made the changes.

**Comment by Ruben-VandeVelde** [comment]
I agree with remaining `mul_T` for consistency, but that needs a deprecated alias for downstream users.

File: Mathlib/RingTheory/Polynomial/Dickson.lean [hunk 7]
```diff
@@ -135,25 +135,45 @@ private theorem two_mul_C_half_eq_one [Invertible (2 : R)] : 2 * C (⅟ 2 : R) =
...
+    rw [dickson_add_two, C_1, Nat.cast_add, Nat.cast_two, Chebyshev.S_add_two,
+      dickson_two_one_eq_chebyshev_S (n + 1), dickson_two_one_eq_chebyshev_S n]
+    push_cast
+    ring
+
+theorem dickson_two_one_eq_chebyshev_U [Invertible (2 : R)] (n : ℕ) :
+    dickson 2 (1 : R) n = (Chebyshev.U R n).comp (C (⅟ 2) * X) :=
+  (dickson_two_one_eq_chebyshev_S R n).trans (Chebyshev.S_eq_U_comp_half_mul_X R n)
+
+theorem chebyshev_U_eq_dickson_two_one (n : ℕ) :
```
Comment (jcommelin) [inline Mathlib/RingTheory/Polynomial/Dickson.lean:174]: All the other lemmas seem to be of the form `dickson_X_Y_eq_chebyshev_Z`. Why is this one flipped in the other direction?

Comment (jcommelin) [reply Mathlib/RingTheory/Polynomial/Dickson.lean:174]: Never mind, it is because there is a `.comp` in the RHs.

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
